US05660814
According to the procedure described in Example 1, 123 g of diethylenetriamine (0.16 mol) are reacted with 121.7 g of compound (A) 3-[[6-[(chloroacetyl)amino]-1-oxohexyl]amino]-α-ethyl-2,4,6-triiodobenzene propanoic acid. 64 g of 3-[6-[[[2-[(2-aminoethyl)amino]ethyl]amino]acetyl amino]-1-oxohexyl]amino-α-ethyl-2,4,6-triiodobenzenepropanoic acid (0.077 mol) are obtained.

reactant | diethylenetriamine | 0.16 mol, 123 g | NCCNCCN | C4H13N3
reactant | 3-[[6-[(chloroacetyl)amino]-1-oxohexyl]amino]-α-ethyl-2,4,6-triiodobenzene propanoic acid | ClCC(=O)NCCCCCC(=O)NC=1C(=C(C(=CC1I)I)CC(C(=O)O)CC)I | C19H24ClI3N2O4
product | 3-[6-[[[2-[(2-aminoethyl)amino]ethyl]amino]acetyl amino]-1-oxohexyl]amino-α-ethyl-2,4,6-triiodobenzenepropanoic acid | 0.077 mol, 64 g, Yield: 48% | NCCNCCNCC(=O)NCCCCCC(=O)NC=1C(=C(C(=CC1I)I)CC(C(=O)O)CC)I | C23H36I3N5O4
